US07838522B2
Step 2: (5-Morpholin-4-ylpyridin-3-yl)methanol
To a suspension of LAH (1 g, 0.027 mol) in dry THF (70 mL) was added methyl 5-morpholin-4-ylnicotinate (4 g, 0.018 mol) in dry THF (10 mL) at −40° C. under stirring. The reaction mixture was stirred at this temperature for 2 h and then quenched with 6 mL of 10% aqueous NaOH solution at −40° C. The reaction mixture was allowed to stir at RT for 30 min, filtered through celite, washed with THF and concentrated to afford 2.8 g, (80%) of the title compound as a liquid.

reactant | LAH | 0.027 mol, 1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 5-morpholin-4-ylnicotinate | 0.018 mol, 4 g | N1(CCOCC1)C=1C=NC=C(C(=O)OC)C1 | C11H14N2O3
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (5-Morpholin-4-ylpyridin-3-yl)methanol | 80% | N1(CCOCC1)C=1C=C(C=NC1)CO | C10H14N2O2
